### PR TITLE
[Merged by Bors] - chore: rename open_range to isOpen_range, closed_range to isClosed_range

### PR DESCRIPTION
**Pull request by grunweg**
All these lemmas refer to the range of some function being open/range (i.e. `isOpen` or `isClosed`).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by eric-wieser — APPROVED** [review]

File: Mathlib/Topology/Separation.lean [hunk 1]
```diff
@@ -1623,16 +1623,16 @@ theorem Set.EqOn.of_subset_closure [T2Space Y] {s t : Set X} {f g : X → Y} (h
       ((hg x hx).mono_left <| nhdsWithin_mono _ hst) (h.eventuallyEq_of_mem self_mem_nhdsWithin)
 #align set.eq_on.of_subset_closure Set.EqOn.of_subset_closure
 
-theorem Function.LeftInverse.closed_range [T2Space X] {f : X → Y} {g : Y → X}
+theorem Function.LeftInverse.isClosed_range [T2Space X] {f : X → Y} {g : Y → X}
```
Comment (sgouezel) [inline Mathlib/Topology/Separation.lean:1626]: can you add a deprecated alias for the old name, with a deprecation date?

Comment (grunweg) [reply Mathlib/Topology/Separation.lean:1626]: Good point, I have done with for all theorems.
I have not done this for structure fields (`OpenEmbedding.open_range` and `ClosedEmbedding.closed_range`) since I wasn't sure if that's easily possible.

**Comment by grunweg** [comment]
awaiting-review

File: Mathlib/Analysis/InnerProductSpace/LaxMilgram.lean [hunk 2]
```diff
@@ -78,13 +78,13 @@ theorem ker_eq_bot (coercive : IsCoercive B) : ker B♯ = ⊥ := by
   exact antilipschitz.injective
 #align is_coercive.ker_eq_bot IsCoercive.ker_eq_bot
 
-theorem closed_range (coercive : IsCoercive B) : IsClosed (range B♯ : Set V) := by
+theorem isClosed_range (coercive : IsCoercive B) : IsClosed (range B♯ : Set V) := by
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/LaxMilgram.lean:81]: did you deprecate this one?

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

File: Mathlib/Analysis/InnerProductSpace/LaxMilgram.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Analysis/InnerProductSpace/LaxMilgram.lean:80]: Ah no, I overlooked it. Thanks for spotting, fixed now.

**Comment by grunweg** [comment]
Thank you for the review.
bors r+
